US08030334B2
A flask is charged with 2-[5-(1,6-dimethyl-1H-indol-2-yl)-pyridin-3-yl]-isoindole-1,3-dione (1.10 g, 2.096 mmol) and EtOH (30 mL). Hydrazine (1.316 mL, 41.9 mmol) is added and the reaction mixture is refluxed for 1 hour. The reaction mixture is cooled to room temperature, filtered and the precipitate is washed thoroughly with ethyl acetate. The filtrate is concentrated in vacuo. The crude is taken up 1M HCl solution and then extracted with EtOAc. The aqueous layer is separated, basified to pH 14 using 4M aqueous NaOH and extracted with DCM thrice. The organic layer is dried over Na2SO4 and concentrated in vacuo to afford 5-(1,6-dimethyl-1H-indol-2-yl)-pyridin-3-ylamine. MS (ESI) m/z 238.4 (M+H)+

reactant | 2-[5-(1,6-dimethyl-1H-indol-2-yl)-pyridin-3-yl]-isoindole-1,3-dione | 2.096 mmol, 1.10 g | CN1C(=CC2=CC=C(C=C12)C)C=1C=C(C=NC1)N1C(C2=CC=CC=C2C1=O)=O | C23H17N3O2
reactant | Hydrazine | 41.9 mmol, 1.316 mL | NN | H4N2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-(1,6-dimethyl-1H-indol-2-yl)-pyridin-3-ylamine | CN1C(=CC2=CC=C(C=C12)C)C=1C=C(C=NC1)N | C15H15N3
